Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bright red blood per rectum
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
Patient is a ___ with history of gout
who presents with postpolypectomy bleeding, transferred from
___.  

One day prior to admission, at ___, patient had a 4cm polyp
removed. After going home, he had a small mean and a normal BM.
He then went to visit a friend and while away from home, roughly
12hrs post-polypectomy, experienced several large bloody BMs,
including passage of clots. Complains of new shortness of breath
and fatigue associated with the bloody BMs. No CP. Experienced
pre-syncope, with vision blackening and nearly passed out. No
actual fall, no head-strike, no LOC. Patient presented to ___ where he received 2L IVF given hypotension, persistent
with SBPs into the ___. Hb 15.6 on arrival to ___. He then
received 2U PRBCs and was transferred to ___ for further
evaluation and relook colonoscopy.     
 
In the ED, initial vital signs were: 97.2 65 108/69 18 97% RA 

- Exam notable for: 
Regular rate and rhythm
Clear to auscultation bilaterally
Soft nontender on stent
Scant blood on rectal exam
 
- Labs were notable for:
CBC: 8.8>12.6/37.4<138 -> 5.7>12.7/35.4<118
BMP: 138/4.3/105/___/.9
INR: 1.1
PTT: 26.3
___: 12.2
UA: bland

- Studies performed: NONE 
- Patient was given: 1L NS, PO MoviPrep 1L
- Vitals on transfer: 97.2  70 110/71 16 97% RA 
   
Upon arrival to the floor, the patient reports continued fatigue
and mild dizziness. He reports that since taking the colonoscopy
prep, he had initially clear stools, then progressively redder,
and now more yellow. Denies HA, SoB, CP, abdominal pain, urinary
Sx.

Incidentally, patient and family report a history of his 
"healing
poorly". He has multiple bruises on his legs that are apparently
from injuries he had nearly a year ago. Denies any h/o bleeding
during dental procedures, previous surgeries. He also had a fall
to his RUE several weeks ago for which he is in a cast; no
surgery planned.

 
Past Medical History:
- Gout, controlled on allopurinol
- Cholecystectomy ___
- Knee surgery ___
 
Social History:
___
Family History:
- No significant family history. Denies h/o bleeding or clotting 

 
Physical Exam:
Admission Physical Exam
VS: T 98  BP 97/62  HR 66  RR 18  O2 95%RA
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and
reactive bilaterally, extraocular muscles intact.  No
conjunctival pallor or injection, sclera anicteric and without
injection.  Moist mucous membranes, good dentition.  Oropharynx
is clear.
NECK: Thyroid is normal in size and texture, no nodules.  No
cervical lymphadenopathy.
CARDIAC: Normal rate, regular rhythm. No murmurs/rubs/gallops. 
No JVD.
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields.  No wheezes, rhonchi or rales.
Resonant to percussion. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep
palpation in all four quadrants. Tympanic to percussion.  No
organomegaly.
EXTREMITIES: R arm in cast ___ fall several weeks ago. No
clubbing, cyanosis, or edema, no sign of atrophy/hypertrophy.
Pulses DP/Radial 2+ bilaterally.
SKIN: Scattered bruises <= 1cm diameter across both lower
extremities, nontender.
NEUROLOGIC: CN2-12 intact.  ___ strength througout.  Normal
sensation.  No ataxia, dysmetria, disdiadochokinesia.  Gait is
normal.

Discharge Physical Exam
VS: 97.8 94/62 58 18 96 RA 
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and
reactive bilaterally, extraocular muscles intact.  No
conjunctival pallor or injection, sclera anicteric and without
injection.  Moist mucous membranes, good dentition.  Oropharynx
is clear.
NECK: Thyroid is normal in size and texture, no nodules.  No
cervical lymphadenopathy.
CARDIAC: Normal rate, regular rhythm. No murmurs/rubs/gallops. 
No JVD.
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields.  No wheezes, rhonchi or rales.
Resonant to percussion. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep
palpation in all four quadrants. Tympanic to percussion.  No
organomegaly.
EXTREMITIES: L arm in cast ___ fall several weeks ago. No
clubbing, cyanosis, or edema, no sign of atrophy/hypertrophy.
Pulses DP/Radial 2+ bilaterally.
SKIN: Scattered plaques <= 1cm diameter across both lower
extremities, nontender.
NEUROLOGIC: CN2-12 intact.  ___ strength througout.  Normal
sensation.  No ataxia, dysmetria, disdiadochokinesia.  Gait is
normal.
 
Pertinent Results:
___ 05:40AM BLOOD WBC-8.8 RBC-4.15* Hgb-12.6* Hct-37.4* 
MCV-90 MCH-30.4 MCHC-33.7 RDW-13.2 RDWSD-43.3 Plt ___
___ 05:40AM BLOOD Neuts-70.3 ___ Monos-8.1 Eos-0.9* 
Baso-0.5 Im ___ AbsNeut-6.19* AbsLymp-1.72 AbsMono-0.71 
AbsEos-0.08 AbsBaso-0.04
___ 05:40AM BLOOD Plt ___
___ 05:40AM BLOOD Glucose-132* UreaN-20 Creat-0.9 Na-138 
K-4.3 Cl-105 HCO3-21* AnGap-12
___ 06:45AM BLOOD Glucose-133* UreaN-13 Creat-0.9 Na-146* 
K-4.0 Cl-107 HCO3-23 AnGap-16
___ 06:45AM BLOOD Plt ___
___ 09:45AM BLOOD Neuts-61.7 ___ Monos-11.3 
Eos-0.9* Baso-0.5 Im ___ AbsNeut-3.51 AbsLymp-1.43 
AbsMono-0.64 AbsEos-0.05 AbsBaso-0.03
___ 06:45AM BLOOD WBC-4.7 RBC-3.91* Hgb-11.9* Hct-35.4* 
MCV-91 MCH-30.4 MCHC-33.6 RDW-14.0 RDWSD-45.8 Plt ___
___ 11:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 11:00AM URINE Color-Straw Appear-Clear Sp ___
___ 11:00 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
___ with h/o well-controlled gout who presented with bleeding 
post-polypectomy

=============
ACTIVE ISSUES
=============
# BRBPR s/p polypectomy ___
Significant large bloody bowel movements with clots shortly 
after
polypectomy. Per GI colonoscopy report, removed large polyp, 4cm 
at base. On presentation at ___, pre-syncopal, hypotensive, 
subsequently improved with IVF and 2U PRBCs. Patient was 
transferred to ___ for re-look colonoscopy. Two sessile 
non-bleeding polyps of benign appearance and ranging in size 
from 10 mm to 20 mm were found in the ascending colon. A single 
sessile 6 mm non-bleeding polyp of benign appearance was found 
in the transverse colon. Polyp was not removed given indication 
for colonoscopy is post-EMR bleed. The EMR site was visualized 
with four clips in place. Four additional endoclips were placed 
for the purpose of hemostasis. 4 10 cc. Epinephrine ___ 
injections were applied. GI recommended repeat colonoscopy in 
6mo to assess EMR site. No Plavix, Coumadin, NSAIDs for 7days. 
BPs were 90/50s on day of discharge, patient was given 1L IVF 
and encouraged to drink plenty of fluids. Hb on day of 
discharge: 11.9. 

==============
CHRONIC ISSUES
==============
# Gout, well-controlled
Continued home allopurinol.

===================
TRANSITIONAL ISSUES
===================
[ ] Hb on day of discharge: 11.9
[ ] F/U with PCP given BRBPR (patient will need to call)
[ ] F/U scheduled with GI given BRBPR (requested)
[ ] Repeat colonoscopy with GI in 6___ to visualize EMR site and 
possibly perform additional polypectomies
[ ] F/U pending colonic tissue pathology from first colonoscopy 
___
[ ] F/U urine culture taken in ED, UA benign

======================================
- Contact: Wife, ___ ___
- Code status: Full (presumed)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Post-polypectomy bleeding
- Acute blood loss anemia

Secondary:
- Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because of bleeding after a 
polyp was removed during your colonoscopy. We gave you 
intravenous fluids for support.  You had a repeat colonoscopy, 
which showed the site of bleeding.  Several clips were placed to 
help prevent further bleeding.  Your blood counts remained 
stable and you were stable and safe for discharge.  You will 
need to have a repeat colonoscopy in six months.  

When you get home, continue your allopurinol you were taking 
before. You have no new medications.

If you are experiencing persistent bloody bowel movements or 
feel lightheaded/short of breath you should return to the 
emergency department.  It is important that you do not take any 
blood thinners (including ibuprofen and aspirin) for at least 
7days.  

It was a pleasure caring for you.

Sincerely,

Your ___ team
 
Followup Instructions:
___